US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide (50 mg) in dry methylene chloride (1 ml) were added triethylamine (21 mg) and acetic anhydride (21 mg), and the mixture was stirred at room temperature for 3.5 hours. To the reaction mixture was added water, and the mixture was extracted with methylene chloride. The extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give 40 mg of 1-acetyl-5-[2-[N-tert-butoxycarbonyl- 2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide as an amorphous powder.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 50 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C(=O)N)C)CCOC1=C(C=CC=C1)OCC | C27H37N3O5
reactant | triethylamine | 21 mg | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 21 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 1-acetyl-5-[2-[N-tert-butoxycarbonyl- 2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carboxamide | 40 mg | C(C)(=O)N1CCC2=CC(=CC(=C12)C(=O)N)CC(C)N(C(=O)OC(C)(C)C)CCOC1=C(C=CC=C1)OCC | C29H39N3O6
